US08648200B2
4-Methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-amine
Stir a mixture of 2-methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine (180 g, 649.2 mmol, 1 equiv) in EtOH (1.4 L) and hydroxylamine (159 ml, 2.596 mol, 4 equiv) at an internal temperature of 82° C. for 48 hours. Cool the mixture, and concentrate to dryness. Dilute the residue with DCM (1.5 L), and wash sequentially with water (2×500 ml) and brine (500 ml). Dry the organic phase over MgSO4; filter; collect the filtrate and; and remove the solvent in vacuo to give a yellow gum. Purify the resulting material by flash chromatography on silica gel (2 kg), eluting with a gradient of 4:1:0.02 DCM/MeOH/NH3 to obtain the title compound as a yellow foam (95% yield). MS (m/z) 242 (M+1).

reactant | 2-methyl-3-[4-(trifluoromethyl)phenyl]imidazo[1,2-a]pyrimidine | 649.2 mmol, 180 g, 1 equiv | CC=1N=C2N(C=CC=N2)C1C1=CC=C(C=C1)C(F)(F)F | C14H10F3N3
reactant | hydroxylamine | 2.596 mol, 159 ml, 4 equiv | NO | H3NO
solvent | EtOH | 1.4 L | CCO | C2H6O
product | 4-Methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-amine | 95% yield | CC=1N=C(NC1C1=CC=C(C=C1)C(F)(F)F)N | C11H10F3N3
